US06410585B1
5-{(2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[(3-isopropoxypropyl)amino]-3-oxopropyl}-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid and 3-isopropoxypropylamine (34 mg) according to Method B to give the title compound (34 mg). 1H-NMR (400 MHz, CD3OD) d 7.76 (s, 1H), 7.40 (d, J=8.3 Hz, 1H), 7.28-7.17 (m, 5H), 7.03 (d, J=8.6 Hz, 1H), 4.80 (s, 2H), 4.50 (m, 1H), 4.24 (dd, J=5.1 Hz, J=9.3 Hz, 1H), 3.54 (t, J=6.1 Hz, 1H), 3.35 (m, 2H), 3.23 (m, 1H), 3.14 (m, 1H), 3.08-2.91 (m, 3H), 2.75 (dd, J=9.6 Hz, J=13.5 Hz, 1H), 1.63 (m, 2H), 1.35 (s, 9H), 1.12 (dd, J=2.0 Hz, J=6.1 Hz); IR (KBr) cm−1; HRMS m/z 629.2946 (calc. of monoisotopic mass for C32H43N3O10 gives 629.2948).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | 3-isopropoxypropylamine | 34 mg | C(C)(C)OCCCN | C6H15NO
product | 5-{(2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[(3-isopropoxypropyl)amino]-3-oxopropyl}-2-(carboxymethoxy)benzoic Acid | 34 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(=O)NCCCOC(C)C)CC1=CC=CC=C1 | C32H43N3O10
